US09126931B2
Trifluoromethanesulfonic acid 8-methoxy-6,6-dimethyl-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester
3-(2,4-Dihydroxy-phenyl)-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one (Compound Z10, 5.53 g) was dissolved in methylene chloride (40 mL), and added with trifluoromethanesulfonic anhydride (2.98 mL) at room temperature. After cooling to 5° C., diisopropylethylamine (9.25 mL) and trifluoromethanesulfonic anhydride (4.47 mL) were added thereto. To the reaction mixture, methylene chloride and saturated dipotassium hydrogen phosphate were added and the organic layer was washed with saturated brine. Thereafter, the organic layer was dried over magnesium sulfate. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (4.82 g, 64%).

reactant | 3-(2,4-Dihydroxy-phenyl)-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | 5.53 g | OC1=C(C=CC(=C1)O)C1C(C(C2=CC(=CC=C2C1)OC)(C)C)=O | C19H20O4
reactant | trifluoromethanesulfonic anhydride | 2.98 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | diisopropylethylamine | 9.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 4.47 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | dipotassium hydrogen phosphate | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 8-methoxy-6,6-dimethyl-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester | 4.82 g, 64% | COC=1C=C2C(C3=C(C4=C(O3)C=C(C=C4)OS(=O)(=O)C(F)(F)F)CC2=CC1)(C)C | C20H17F3O5S
